US04515948
A solution of 2.9 g. of 2,4-diamino-5-[3,5-dimethoxy-4-(methylamino)-benzyl]-pyrimidine in 40 ml. of 1N hydrochloric acid was treated dropwise with a solution of 830 mg. of sodium nitrite in 10 ml. of water with stirring and ice-cooling. The mixture was stirred for 3 hours at room temperature and then sodium carbonate was added to obtain an alkaline reaction. The precipitate was removed by filtration with suction, washed with water and recrystallized from methanol, whereby there was obtained 2,4-diamino-5-[3,5-dimethoxy-4-(methyl-nitrosoamino)-benzyl]-pyrimidine having a melting point of 249°-250° C. (decomposition).

reactant | 2,4-diamino-5-[3,5-dimethoxy-4-(methylamino)-benzyl]-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)NC)OC | C14H19N5O2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2,4-diamino-5-[3,5-dimethoxy-4-(methyl-nitrosoamino)-benzyl]-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)N(N=O)C)OC | C14H18N6O3
